US04785004
(a) 3-(3-trifluoromethylphenyl)-2-trans-propenoic acid ethyl ester
88.9 g of ethoxycarbonylmethylenetriphenylphosphorane are added dropwise, while cooling, to a solution of 34.0 g of 3-trifluoromethylbenzaldehyde in 400 ml of dichloromethane. The reaction mixture is stirred for one hour at room temperature, the solvent is evaporated off in vacuo and the residue is filtered with ether/hexane (4:1) over silica gel. Concentration by evaporation of the eluate yields the title compound in the form of white crystals; m.p. 40°-41° C.

reactant | ethoxycarbonylmethylenetriphenylphosphorane | 88.9 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | 3-trifluoromethylbenzaldehyde | 34.0 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 3-(3-trifluoromethylphenyl)-2-trans-propenoic acid ethyl ester | C(C)OC(\C=C\C1=CC(=CC=C1)C(F)(F)F)=O | C12H11F3O2
